US07351709B2
To a stirred solution of (3S)-3-ethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one (0.25 g, 0.76 mmol) in acetone (6 mL) under nitrogen was added cesium carbonate (0.133 g, 0.41 mmol), potassium carbonate (0.057 g, 0.41 mmol) and iodoethane (0.20 mL, 0.39 g, 2.5 mmol). The reaction was stirred at 51° C. for 4 h. The solvent was evaporated, and the residue was partitioned between methylene chloride and water. The organic layer was separated and washed with water. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The product was purified via Biotage Horizon® (SiO2, gradient from 4% EtOAc/hexane to 38% EtOAc/hexane) to yield 0.19 g (75%) of (3S)-1,3-diethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one. MS (ESI) m/z 357 ([M+H]+).

reactant | (3S)-3-ethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one | 0.76 mmol, 0.25 g | C(C)[C@H]1C(NC2=CC=C(C=C2N1C(C1=CC=C(C=C1)OC)=O)F)=O | C18H17FN2O3
reactant | cesium carbonate | 0.41 mmol, 0.133 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium carbonate | 0.41 mmol, 0.057 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 2.5 mmol, 0.20 mL, 0.39 g | ICC | C2H5I
solvent | acetone | 6 mL | CC(=O)C | C3H6O
product | (3S)-1,3-diethyl-6-fluoro-4-(4-methoxybenzoyl)-3,4-dihydroquinoxalin-2(1H)-one | 0.19 g, 75% | C(C)N1C([C@@H](N(C2=CC(=CC=C12)F)C(C1=CC=C(C=C1)OC)=O)CC)=O | C20H21FN2O3
